US05952362
6. Preparation of (3-amino-4-chloro-2-methylphenoxy)acetonitrile
A mixture of (4-chloro-2-methyl-3-nitrophenoxy)acetonitrile (9.1 g) and zinc (dust) (10.5 g) in glacial acetic acid (90 mL) was heated at 60-65° C. for 4 hr under an atmosphere of nitrogen. The reaction mixture was cooled to room temperature, then filtered through celite. The filtrate was evaporated under reduced pressure and the residue partitioned between ethyl ether (500 mL) and 10% ammonium hydroxide solution (500 mL). The ethereal solution was separated, washed with saturated sodium chloride solution, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue flash chromatographed on silica, eluting with ethyl acetate:hexane (1:4) to afford 4.76 g as a light yellow oil which crystallized on standing.

reactant | (4-chloro-2-methyl-3-nitrophenoxy)acetonitrile | 9.1 g | ClC1=C(C(=C(OCC#N)C=C1)C)[N+](=O)[O-] | C9H7ClN2O3
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 10.5 g | [Zn] | Zn
product | (3-amino-4-chloro-2-methylphenoxy)acetonitrile | NC=1C(=C(OCC#N)C=CC1Cl)C | C9H9ClN2O
